data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202400153_sup_1.json
{"doi": "10.1002_adsc.202400153_sup_1", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Photoelectrochemical thiocyanation/cyclization of N-alkenylacrylamides with KSCN to form SCN-functionalized pyrrolinones (3a) using Mes-Acr+ photocatalyst under 455 nm light and constant current electrolysis in Bu4NOAc/HFIP.", "mechanism_family": ["photoredox_combined", "radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation regenerates the excited-state-reduced photocatalyst (or oxidizes SCN-/acetate); light excites Mes-Acr+ which oxidizes thiocyanate to a thiocyanyl radical that adds to the acrylamide alkene, triggering radical cyclization.", "key_intermediates": [{"name": "thiocyanyl radical (•SCN)", "smiles": "[S]C#N", "role": "reactive"}, {"name": "carbon-centered radical after SCN addition to acrylamide alkene", "smiles": null, "role": "transient"}, {"name": "cyclized C-radical on enamide", "smiles": null, "role": "transient"}, {"name": "Mes-Acr+ excited state photocatalyst", "smiles": null, "role": "reactive"}, {"name": "TEMPO-SCN adduct (detected by HRMS)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Photoexcited Mes-Acr+* oxidizes SCN- to •SCN, which adds to the acrylamide alkene; the resulting carbon radical cyclizes onto the pendant enamide, and the cyclized radical is oxidized (anodically and/or by photocatalyst) to a cation that is deprotonated to give the pyrrolinone, while the anode reoxidizes the reduced acridine radical to close the catalytic cycle.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a fully suppressed (0% under both conditions A and B); TEMPO-SCN adduct detected by HRMS, supporting •SCN intermediate."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Product 3a fully suppressed (0% under both conditions A and B), consistent with radical pathway."}, {"name": "light/current on-off (control without photocatalyst)", "smiles": null, "purpose": "other", "observation": "Yield grows during 'on' periods and plateaus during 'off' periods for both light and current toggling, indicating both photo- and electro-input are continuously required."}, {"name": "no-light / no-electricity controls", "smiles": null, "purpose": "other", "observation": "Without light: no product. Without electricity: only ~8% yield vs ~70% under full conditions, showing electrochemistry is essential."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "on/off_light_or_current", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Two condition sets (A: with Mes-Acr+ photocatalyst; B: PC-free photoelectrosynthesis) are studied; on/off experiments in Figure S10 are for the PC-free variant (conditions B), showing that simultaneous photo- and electro-input are needed. Reaction profiles (Figure S9) confirm both light and current are required for high yield under conditions A."}
